US06583145B1
5′-(3-Methoxyphenyl)-spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one 2′-(O-benzyloxime).
Prepared from 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) (1.0 g, 2.6 mmol) and 3-methoxyphenyl boronic acid (0.79 g, 5.2 mmol) according to Example 45 procedure A. The product was purified by flash silica gel chromatography; (eluant: 10:0.5 hexane:ethyl acetate) to give the desired product (0.80 g, 1.9 mmol, 75%) as a viscous oil. 1H NMR (500 MHz, DMSO-d6) δ 1.43-1.78 (8H, m), 1.95-2.00 (2H, q), 3.80 (3H, s), 5.00 (2H, s), 6.82-6.86 (2H, m), 7.10-7.16 (2H, m), 7.28-7.53 (10H, m), 9.57 (1H, s); MS (ESI(−ve)) m/z 411 (M−H)−.

reactant | 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)Br | C20H21BrN2O
reactant | 3-methoxyphenyl boronic acid | 5.2 mmol, 0.79 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5′-(3-Methoxyphenyl)-spiro[cyclohexane-1,3′-[3H]indol]-2′(1′H)-one 2′-(O-benzyloxime) | 1.9 mmol, 0.80 g, 75% | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)C2=CC(=CC=C2)OC | C27H28N2O2
